.title kicad schematic

.include NMOS-180nm.lib
.include PMOS-180nm.lib
v1 net-_v2-pad2_ gnd  dc 1.6
v2 in1 net-_v2-pad2_  ac 990m 0
m7 net-_i1-pad1_ net-_i1-pad1_ gnd gnd CMOSN W=6u L=0.5u M=1
i1 net-_i1-pad1_ vdd  dc 20u
m1 vdd net-_m1-pad2_ net-_m1-pad2_ vdd CMOSP W=7u L=0.5u M=1
m4 net-_m1-pad2_ in1 net-_m4-pad3_ gnd CMOSN W=3u L=0.5u M=1
v6 vdd gnd  dc 1.8
m5 net-_m3-pad2_ in2 net-_m4-pad3_ gnd CMOSN W=3u L=0.5u M=1
m2 vdd net-_m1-pad2_ net-_m3-pad2_ vdd CMOSP W=7u L=0.5u M=1
m3 vdd net-_m3-pad2_ out out CMOSP W=87.04u L=0.5u M=1
c1 net-_m3-pad2_ out 600f
v4 net-_v3-pad1_ gnd  dc 1.6
v3 net-_v3-pad1_ in2  ac 990m 0
m6 out net-_i1-pad1_ gnd gnd CMOSN W=37.5u L=0.5u M=1
* u1 out plot_phase
c2 gnd out 2p
m8 net-_m4-pad3_ net-_i1-pad1_ gnd gnd CMOSN W=6u L=0.5u M=1
* u2 out plot_db
.ac dec 50 10Hz 1GHz

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot phase(out)
plot db(out)
.endc
.end
